### PR TITLE
feat(FreeGroup): characterize commutative/cyclic free groups

### PR DESCRIPTION
**Pull request by vlad902**
Characterize cyclic/commutative free groups as being those on ≤ 1 generators. I generalize and move around some instances along the way to avoid new imports.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Basic.lean [hunk 1]
```diff
@@ -894,6 +894,14 @@ lemma zpow_induction_right {g : G} {P : G → Prop} (h_one : P (1 : G))
     rw [zpow_sub_one]
     exact h_inv _ ih
 
+@[to_additive]
```
Comment (vlad902) [inline Mathlib/Algebra/Group/Basic.lean:897]: this instance is just moved to an earlier file

File: Mathlib/Algebra/Group/Defs.lean [hunk 2]
```diff
@@ -1291,6 +1291,10 @@ instance (priority := 100) Group.toCancelMonoid : CancelMonoid G where
   mul_left_cancel := fun a {b c} h ↦ by
     rw [← inv_mul_cancel_left a b, show a * b = a * c from h, inv_mul_cancel_left]
 
+@[to_additive]
```
Comment (vlad902) [inline Mathlib/Algebra/Group/Defs.lean:1294]: This instance is just moved to an earlier file. I'd argue that since `IsCyclic` is defined in this file that it's reasonable to also state that the trivial group is cyclic here as well, but if `Algebra.Group.Defs` is too early, I could rename `SpecificGroups.Cyclic.Basic` to `Cyclic.ZMod` and then have `SpecificGroups.Cyclic.Basic` only import `Algebra.Group.Basic` with these two instances instead?

File: Mathlib/GroupTheory/FreeGroup/Reduce.lean [hunk 3]
```diff
@@ -403,6 +403,32 @@ theorem eq_of_of_pow_eq_of_pow {a b : α} (hab : a ≠ b) {n m : ℕ} (h : of a
...
+  exact not_commute hab
+
+@[to_additive]
+theorem subsingleton_iff_isCyclic : Subsingleton α ↔ IsCyclic (FreeGroup α) := by
+  refine ⟨fun h ↦ inferInstance, fun h ↦ ?_⟩
+  by_contra! hh
+  exact not_isMulCommutative_of_nontrivial h.isMulCommutative
+
+@[to_additive]
+theorem subsingleton_iff_isMulCommutative : Subsingleton α ↔ IsMulCommutative (FreeGroup α) := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/Reduce.lean]: Perhaps these should be the other way around?

Comment (vlad902) [reply Mathlib/GroupTheory/FreeGroup/Reduce.lean]: Thanks, I'm not sure why I wrote it this way around. I've also additionally marked them simp now.

File: Mathlib/Basic/Unique.lean [hunk 4]
```diff
@@ -149,6 +149,14 @@ theorem unique_iff_subsingleton_and_nonempty (α : Sort u) :
   ⟨fun ⟨u⟩ ↦ by constructor <;> exact inferInstance,
    fun ⟨hs, hn⟩ ↦ nonempty_unique α⟩
 
+theorem subsingleton_iff_isEmpty_or_unique (α : Sort u) :
+    Subsingleton α ↔ IsEmpty α ∨ Nonempty (Unique α) := by
```
Comment (tb65536) [inline Mathlib/Basic/Unique.lean:153]: the existing `unique_iff_subsingleton_and_nonempty` might help simplify the proof slightly?

Comment (vlad902) [reply Mathlib/Basic/Unique.lean:153]: If `isEmpty_or_nonempty` was available in this file you could do
```
  rcases isEmpty_or_nonempty α with h | h
  · simp [h, IsEmpty.subsingleton]
  · simp [h, unique_iff_subsingleton_and_nonempty]
```
but I didn't figure out how to do it without it. (I have a faint memory of having some issues when I first wrote this PR of getting the proof to work here with its limited imports. I can't put it downstream next to `isEmpty_or_nonempty` because `Unique` is not defined.)

Comment (vlad902) [reply Mathlib/Basic/Unique.lean:153]: Ah right and then looking at it again now, I originally thought about whether to hoist `isEmpty_or_nonempty` higher but it then got kind of messy where it seemed like it was not really worth it.

Comment (tb65536) [reply Mathlib/Basic/Unique.lean:153]: What about this?
```
rw [isEmpty_iff, ← not_nonempty_iff_imp_false, unique_iff_subsingleton_and_nonempty,
    or_and_left, or_iff_right_of_imp subsingleton_of_not_nonempty, and_iff_left (em' _)]
```

Comment (vlad902) [reply Mathlib/Basic/Unique.lean:153]: Nice, thanks!
